US07718652B2
A solution of 2-(aminomethyl)-N-(2-fluorophenyl)aniline (2.07 g, 9.6 mmol) and sulfamide (1.1 g, 11.5 mmol) in digylyme (10 mL) was added to a flask containing refluxing diglyme (15 mL) over 10 min. The reaction mixture was stirred at reflux for 1 h, then cooled to room temperature and was evaporated to a brown oil. The crude reaction product was purified by flash chromatography (SiO2, 3-50% ethyl acetate/heptane) to afford 1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (1.86 g, 70%) as a white solid:

reactant | 2-(aminomethyl)-N-(2-fluorophenyl)aniline | 9.6 mmol, 2.07 g | NCC1=C(NC2=C(C=CC=C2)F)C=CC=C1 | C13H13FN2
reactant | sulfamide | 11.5 mmol, 1.1 g | S(=O)(=O)(N)N | H4N2O2S
solvent | diglyme | 15 mL | COCCOCCOC | C6H14O3
product | 1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 1.86 g, 70% | FC1=C(C=CC=C1)N1S(NCC2=C1C=CC=C2)(=O)=O | C13H11FN2O2S
